US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 3,4-methylenedioxybenzoyl chloride, there is obtained ethyl N-(3,4-methylenedioxybenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 414 (5), 385 (7), 194 (100), 149 (33);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 3,4-methylenedioxybenzoyl chloride | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
product | ethyl N-(3,4-methylenedioxybenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1OC=2C=C(C(=O)N=C(OCC)N3CC4=C(C5=C(C3)C=CC=C5)C=CC=C4)C=CC2O1 | C25H22N2O4
